US05037825
In analogy to Example 45, by reacting [1-(2,2-dimethyl-1,3-benzodithiol-5-yl)ethyl]triphenylphosphonium bromide with benzaldehyde, there was obtained 2,2-dimethyl-5-[(E)-α-methylstyryl]-1,3-benzodithiol, melting point 57°-58° C.

reactant | [1-(2,2-dimethyl-1,3-benzodithiol-5-yl)ethyl]triphenylphosphonium bromide | [Br-].CC1(SC2=C(S1)C=CC(=C2)C(C)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | 2,2-dimethyl-5-[(E)-α-methylstyryl]-1,3-benzodithiol | CC1(SC2=C(S1)C=CC(=C2)\C(=C\C2=CC=CC=C2)\C)C | C18H18S2
